US08466186B2
(a) N-(4-Chloro-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfinamide
A solution of 2-methylpropane-2-sulfinic acid chloride (83 mg, 0.59 mmol) in DCM (2 mL) was added dropwise to a solution of 4-chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine (265 mg, 0.56 mmol), TEA (113 mg, 1.12 mmol) and DCM (3 mL) at 0° C. under Ar. The mixture was stirred at rt overnight, poured into H2O and extracted with DCM. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. Crystallization from DCM/PE gave the sub-title compound.

reactant | 2-methylpropane-2-sulfinic acid chloride | 0.59 mmol, 83 mg | CC(C)(C)S(=O)Cl | C4H9ClOS
reactant | 4-chloro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino]benzylamine | 0.56 mmol, 265 mg | ClC1=C(C=C(CN)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F | C21H22Cl2F3N5
reactant | H2O | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(4-Chloro-3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)benzyl)-2-methylpropane-2-sulfinamide | ClC1=C(C=C(CNS(=O)C(C)(C)C)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F | C25H30Cl2F3N5OS
